US08497371B2
2-(4-{[(4-methoxyphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (24)
Pipemidic acid (30 mg, 0.0989 mmol) and 4-methoxyphenyl isothiocyanate (13.7 μL, 0.0989 mmol) were used. Purification on silica yielded compound 24 in Table 1, below (37 mg, 80%). 1H NMR (300 MHz, CDCl3) δ 9.33 (s, 1H), 8.67 (s, 1H), 7.30 (s, 1H), 7.15 (d, J=8.76 Hz, 2H), 6.90 (d, J=8.82 Hz, 2H), 4.34 (q, J=7.10 Hz, 2H), 4.25-3.92 (m, 8H), 3.81 (s, 3H), 1.49 (t, J=7.12 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.0989 mmol, 30 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 4-methoxyphenyl isothiocyanate | 0.0989 mmol, 13.7 μL | COC1=CC=C(C=C1)N=C=S | C8H7NOS
product | 2-(4-{[(4-methoxyphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | COC1=CC=C(C=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C22H24N6O4S
